US09428510B2
12.23 g (149 mmol) of sodium acetate and then 7.66 ml (149 mmol) of bromine at 0° C. are added to 10 g (74.6 mmol) of a solution of 2-methoxy-nicotinonitrile in 29 ml of acetic acid. The reaction mixture is heated at 70° C. overnight. After returning to room temperature, the reaction medium is added to an ice bath and the precipitate obtained is filtered, rinsed with water and then dried at 50° C. to yield 11.6 g (73%) of 5-bromo-2-methoxy-nicotinonitrile in the form of a white solid.

reactant | sodium acetate | 149 mmol, 12.23 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 149 mmol, 7.66 ml | BrBr | Br2
reactant | 2-methoxy-nicotinonitrile | COC1=C(C#N)C=CC=N1 | C7H6N2O
solvent | acetic acid | 29 ml | C(C)(=O)O | C2H4O2
product | 5-bromo-2-methoxy-nicotinonitrile | 11.6 g, 73% | BrC=1C=NC(=C(C#N)C1)OC | C7H5BrN2O
